US08486953B2
4-(6-(3-Methoxypropoxy)-2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylic acid
Aqueous NaOH (2M, 0.175 mL) was added into a suspension of methyl 4-(6-(3-methoxypropoxy)-2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate (0.034 g, 0.07 mmol) and the reaction mixture stirred at ambient temperature for 18 hours. The solution was adjusted to pH 2 using 10% aqueous KHSO4 and the resultant suspension was filtered. The solid was washed with water, diethyl ether and dried in vacuo over P2O5 to afford off-white solid (0.024 g, 73%).

reactant | NaOH | 2M, 0.175 mL | [OH-].[Na+]
reactant | methyl 4-(6-(3-methoxypropoxy)-2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | 0.07 mmol, 0.034 g | COCCCOC1=CC=C(C(=N1)OC1CCOCC1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)OC | C23H28N4O6S
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
product | 4-(6-(3-Methoxypropoxy)-2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylic acid | 0.024 g, 73% | COCCCOC1=CC=C(C(=N1)OC1CCOCC1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C22H26N4O6S
